US07157488B2
Combine a mixture of an oil dispersion of KH (40%, 1 g) in 30 mL anhydrous THF and a suspension of 2-(2-(5-benzyloxy-1H-indol-3-yl)ethyl)isoindole-1,3-dione (1.2 g, 3 mmol) in 30 mL THF portionwise. Stir for 1 hour at ambient temperature, cooled to 0° C., add triisopropylsilyltrifluoromethanesulfonate (1.85 g, 6 mmol) and stir an additional 1 hour at ambient temperature. Pour the reaction into a rapidly stirring solution of saturated NaHCO3 and extract with 2×50 mL EtOAc. Combine the organic layer, dry over MgSO4 and concentrate to dryness and chromatograph on silica gel eluting with 1% MeOH in CHCl3 to give 2-(2-(5-benzyloxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione as an oil.

reactant | 2-(2-(5-benzyloxy-1H-indol-3-yl)ethyl)isoindole-1,3-dione | 3 mmol, 1.2 g | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C25H20N2O3
reactant | triisopropylsilyltrifluoromethanesulfonate | 6 mmol, 1.85 g | C(C)(C)[Si](C(C)C)(C(C)C)OS(=O)(=O)C(F)(F)F | C10H21F3O3SSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(2-(5-benzyloxy-1-triisopropylsilanyl-1H-indol-3-yl)ethyl)isoindole-1,3-dione | C(C1=CC=CC=C1)OC=1C=C2C(=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C)CCN1C(C2=CC=CC=C2C1=O)=O | C34H40N2O3Si
